datasets/10k__Tet_Int.csv
SMILES Labelled
"CC1C(C(O[C:20](=[O:10])N1[H])CC)CC.[O-:21]CC>>CC1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)CC)CC 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O][CH](C)C([H])[CH](C)[O]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][NH:10][H].[H][NH+:21]=[C:20]([O]CC)[O][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21][H])([O]CC)[O][H] 10=20;20,21=21"
"[H][O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[O]C.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[O]C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CCCCCC)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CCCCCC)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1C)CCCCCC)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]([NH:21]C)([NH]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].CC[NH:10][H].C[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH](C)[O]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[NH]2.C[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]([O-:10])(OC)[O:21][H])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC)[H].[O-:21][H] 10=20;20,21=21"
"[H][O:10][C:20]([O-:21])(OCC)O[H]>>[O:21]=[C:20](OCC)O[H].[O-:10][H] 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1[H])CC)CCCCCC.[O-:21]C>>CC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)CC)CCCCCC 21=20;20,10=10"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCC)CC)C>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCC)CC)C 21=20;20,10=10"
"[H][NH:10]C(C)C(CC)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)CCCCCC)C>>[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)CCCCCC)[O-:10])C 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CCCCCC)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1CC)CCCCCC)CCCCCC.[O-:21]C 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C([O-:21])CCCCCC)CC)C>>[H]N([C:20]1(OC(C([O:21]1)CCCCCC)CC)[O-:10])C 21=20;20,10=10"
"[H][O+:10](C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C)C)[H])[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])C)C)[H])CC 10=20;20,21=21"
"C[O+:10]([Li])[C:21]([O-:20])(O[H])OC>>[O:20]=[C:21](O[H])OC.C[O:10][Li] 20=21;21,10=10"
"C[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C([H])[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH]C([H])C(C)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C([H])C(C)[NH]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"CC1C(O[C:20](=[O:10])N1[H])CC.[O-:21]C1=CC=CC=C1>>CC1C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)CC 21=20;20,10=10"
"[H][NH+:10](C(CC)C([H])C([H])[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])C1=CC=CC=C1)[H]>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)[H].[O-:21][H] 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[S]2.C[O:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C)[H])[H])[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)[H])[H])C 10=20;20,21=21"
"[CH:20]([OH:10])([I:21])C1=CC=CC=C1>>[CH:20](=[OH+:10])C1=CC=CC=C1.[I-:21] 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(C)[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C)[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1C)CC)CCCCCC.[O-:21]CCCCCC>>[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CC)CCCCCC 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](N1[H])([O-:10])[O:21]CC)CCCCCC>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1[H])CCCCCC.[O-:21]CC 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C([H])[NH][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
